2101-11-26 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 DIALYSIS CATHETER - START [**2101-11-25**] 10:45 AM
   Patient has been weaned off propofol since yesterday afternoon and is
   still not waking up.
   Spiked a temp to 102 and was pan cultured
   LP planned for this morning.
   Allergies:
   Iron Dextran Complex
   Unknown;
   Heparin (Porcine)
   Unknown;
   Ibuprofen
   Unknown; upset
   Gadolinium-Containing Agents
   Nausea/Vomiting
   Morphine
   Drowsiness/Fati
   Vancomycin
   chest pain;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2101-11-26**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-26**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102.1
   HR: 66 (65 - 80) bpm
   BP: 125/53(71) {99/53(66) - 185/81(101)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    807 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    807 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 436 (286 - 587) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/43/153/24/2
   Ve: 6 L/min
   PaO2 / FiO2: 306
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   10.4 g/dL
   48 mg/dL
   7.1 mg/dL
   24 mEq/L
   5.4 mEq/L
   32 mg/dL
   97 mEq/L
   136 mEq/L
   36.4 %
   7.2 K/uL
        [image002.jpg]
                            [**2101-11-25**]  03:53 AM
                            [**2101-11-25**]  02:33 PM
                            [**2101-11-26**]  04:15 AM
   WBC
   5.5
   7.2
   Hct
   36.3
   36.4
   Plt
   289
   334
   Cr
   5.7
   7.1
   TCO2
   30
   28
   Glucose
   70
   48
   Other labs: ALT / AST:[**4-10**], Alk Phos / T Bili:161/0.6,
   Differential-Neuts:60.3 %, Lymph:25.5 %, Mono:7.9 %, Eos:5.5 %, LDH:240
   IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Imaging: [**2101-11-25**] CXR
   IMPRESSION:
   1. Endotracheal tube and nasogastric tube in satisfactory position.
   2. Interval improvement in mild pulmonary edema.
   Head CT
   There is periventricular white matter hypodensity, consistent with
   chronic
   small vessel ischemic changes,
   No acute intracranial hemorrhage
   Assessment and Plan
   62 y/o female with multiple medical problems has:
   # Encephalopathy: In context of HTN similar to prior presentations.
   Exacerbated at this time by agitation [**1-31**] intubation and multiple doses
   of haldol/ativan given in emergency room.  Although presentation
   atypical, cannot rule out at this time epileptiform activity although
   her initial presentation is not suggestive of this (no witnessed
   seizure or seizure-like movements).  She has beeWe can also not rule
   out meningitis/encephalitis although again the patient does not have
   any laboratory evidence suggestive of these findings.  Exam is normal
   with exception of + Kernig's sign.  Head CT preliminary read negative.
   - Control BP as below
   - EEG/MRI this morning
   - LP this morning because mounted fever
   - Antibiotics started as could be infectious cause (sepsis vs
   meningitis): ampicillin, ceftriaxone, vancomycin, and acyclovir
   - Consult neurology in AM regarding trileptal monitoring.
   .
   #Fever:possibly due to infection, was pan cultured.  Will do an LP this
   morning and started antibiotics this morning.
   - LP this morning
   - f/u pan cultures and CXR
   - antibiotics: ceftriaxone, ampicillin, acyclovir, and vanco all
   started [**2101-11-26**] in am.
   .
   # HTN: Patient was on nitroprusside drip started in ED and now on
   labetalol drip.  Currently hypertension improved with SBP in
   130-150range x several hours; combination of BP medication
   - Switch to labetolol drip given toxic metabolites of nitropruside
   - Restart home labetolol (600 TID)
   - Restart diovan at 160 [**Hospital1 7**] (Normally 320 QD)
   - Restart amlodipine (takes several days to work)
   - Will likely need to increase medications once propofol weaned.
   .
   # ESRD: Last HD on Wednesday.  Currently stable.  Continue nephrocaps,
   renagel
   - f/ renal recs
    .
   # Asthma: Continue prn albuterol
   .
   # Gastroesophageal reflux disease: lansoprazole
   .
   # Hypercholesterolemia: continue home simvastatin
   .
   # FEN: No IVF, follow electrolytes, NPO at this time
   # Prophylaxis: pneumoboots
   # Access: peripherals
   # Code:  Full
   # Communication: Patient, husband
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-11-25**] 04:44 AM
   Dialysis Catheter - [**2101-11-25**] 10:45 AM
   18 Gauge - [**2101-11-26**] 07:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-11-26 09:30:00 Physician Attending Progress Note
Chief Complaint: Hypertension, altered mental status, chronic renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Labetalol weaned off. Propofol stoppped overnight. Maintained on PSV
   [**5-3**] through the night. FIO2=0.5.
   Temp up this AM to 102.1. WBC remains normal.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2101-11-25**] 10:45 AM
 BLOOD CULTURED - At [**2101-11-25**] 04:00 PM
 BLOOD CULTURED - At [**2101-11-26**] 04:00 AM
 SPUTUM CULTURE - At [**2101-11-26**] 06:00 AM
 STOOL CULTURE - At [**2101-11-26**] 06:00 AM
 FEVER - 102.1
F - [**2101-11-26**] 06:00 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Iron Dextran Complex
   Unknown;
   Heparin (Porcine)
   Unknown;
   Ibuprofen
   Unknown; upset
   Gadolinium-Containing Agents
   Nausea/Vomiting
   Morphine
   Drowsiness/Fati
   Vancomycin
   chest pain;
   Last dose of Antibiotics:
   Vancomycin - [**2101-11-26**] 08:15 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2101-11-26**] 05:00 AM
   Lansoprazole (Prevacid) - [**2101-11-26**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-26**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.4
C (101.1
   HR: 66 (65 - 77) bpm
   BP: 125/53(71) {99/53(66) - 185/80(101)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    807 mL
                                                                    461 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    807 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 426 (286 - 587) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.41/43/153/24/2
   Ve: 7 L/min
   PaO2 / FiO2: 306
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Coarse posterior axillary
   line left greater than right, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   334 K/uL
   48 mg/dL
   7.1 mg/dL
   24 mEq/L
   5.4 mEq/L
   32 mg/dL
   97 mEq/L
   136 mEq/L
   36.4 %
   7.2 K/uL
        [image002.jpg]
                            [**2101-11-25**]  03:53 AM
                            [**2101-11-25**]  02:33 PM
                            [**2101-11-26**]  04:15 AM
   WBC
   5.5
   7.2
   Hct
   36.3
   36.4
   Plt
   289
   334
   Cr
   5.7
   7.1
   TCO2
   30
   28
   Glucose
   70
   48
   Other labs: ALT / AST:[**4-10**], Alk Phos / T Bili:161/0.6,
   Differential-Neuts:60.3 %, Lymph:25.5 %, Mono:7.9 %, Eos:5.5 %, LDH:240
   IU/L, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ACUTE RESPIRATORY FAILURE
   CHRONIC RENAL FAIULRE
   ==========================
   Doing better with respect to hypertension with re-institution of
   anti-hypertensives. Continue to monitor.
   Doing better on ventilator. As mental status improves, hope to
   extubate. RSBI encouraging. Respoonding to verbal stimuli now; mild
   cough with suctioning. Should be ready for extubation later today.
   Mental status improving. To have LP this AM. If no WBC's, remove
   meningitis precautions. No meningismus on exam.
   Fever with WBC normal. CXR with obscuring of left hemidiaphragm
   concerning for atelectasis or LLL infiltrate. Continue antibiotics.
   Chronic renal faiulre; potassium mildly elevated. Dialysis today.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2101-11-25**] 04:44 AM
   Dialysis Catheter - [**2101-11-25**] 10:45 AM
   18 Gauge - [**2101-11-26**] 07:54 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2101-11-27 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2101-11-26**] 10:15 AM
 INVASIVE VENTILATION - STOP [**2101-11-26**] 01:59 PM
 BLOOD CULTURED - At [**2101-11-26**] 02:30 PM  from HD line X 2
 FEVER - 101.1
F - [**2101-11-26**] 08:00 AM
   - LP done in AM: unimpressive
   - CXR with evidence of PNA --> started
   Vanc/Cefepime/Acyclovir/Ampicillin --> LP unimpressive, stopped Amp,
   started Cipro
   - Got HD today
   - Extubated
   - Had sputum with 4+ GN diplococci and 3+ GPC's in pairs, chains,
   clusters.
   - changed to home antihypertensive regimen (and labetalol gtt stopped)
   - Renal recs: HD, with epo, up to 3kg today
   - Went to put NGT and pt woke up
   - Waned to start subQ heparin but has "unknown" allergy to it
   - Came back Cdiff positive so started on PO Flagyl
   Allergies:
   Iron Dextran Complex
   Unknown;
   Heparin (Porcine)
   Unknown;
   Ibuprofen
   Unknown; upset
   Gadolinium-Containing Agents
   Nausea/Vomiting
   Morphine
   Drowsiness/Fati
   Vancomycin
   chest pain;
   Last dose of Antibiotics:
   Vancomycin - [**2101-11-26**] 08:15 AM
   Cefipime - [**2101-11-26**] 09:35 AM
   Acyclovir - [**2101-11-26**] 10:41 AM
   Ampicillin - [**2101-11-26**] 12:35 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2101-11-26**] 08:10 AM
   Propofol - [**2101-11-26**] 10:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-27**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.4
C (97.5
   HR: 66 (59 - 75) bpm
   BP: 143/54(77) {98/47(61) - 161/80(95)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    879 mL
                                                                     33 mL
   PO:
             TF:
   IVF:
                                                                    664 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,121 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 426) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 6.3 L/min
   Physical Examination
   Gen: extubated and awake, alert, oriented to place and month, but not
   specific date.  Confused as to why she is in the hospital, odd affect.
   Chest: clear to auscultation b/l
   Heart: 2/6 systolic murmur; NRRR
   Abd: soft, ND
   Ext: no edema, warm and well-perfused
   Labs / Radiology
   243 K/uL
   9.5 g/dL
   74 mg/dL
   4.2 mg/dL
   26 mEq/L
   4.8 mEq/L
   16 mg/dL
   100 mEq/L
   137 mEq/L
   32.4 %
   4.3 K/uL
        [image002.jpg]
                            [**2101-11-25**]  03:53 AM
                            [**2101-11-25**]  02:33 PM
                            [**2101-11-26**]  04:15 AM
                            [**2101-11-27**]  04:27 AM
   WBC
   5.5
   7.2
   4.3
   Hct
   36.3
   36.4
   32.4
   Plt
   [**Telephone/Fax (3) 11814**]
   Cr
   5.7
   7.1
   4.2
   TCO2
   30
   28
   Glucose
   70
   48
   74
   Other labs: ALT / AST:10/34, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:60.3 %, Lymph:25.5 %, Mono:7.9 %, Eos:5.5 %, LDH:424
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: CSF tube 4 w/ 14 WBC, 58% PMNs
   tube 2 w/ prot 50, gluc 32
   Imaging: [**11-26**] CXR: Interval increase in the CHF with cardiomegaly and
   prominence of pulmonary vasculature, cannot exclude infxn.
   [**11-27**] CXR: improvement in CHF.
   Microbiology: [**11-26**] Cdiff: positive
   [**11-26**] sputum: GNC and GPC
   [**11-26**] CSF gram stain and cx pending
   Blood cx pending
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   62 y/o female ESRD and poorly controlled HTN presents w/ encephalopathy
   in the setting of severe HTN.  Problem list:
   # Encephalopathy: In context of HTN similar to prior presentations.
   This morning her mental status is much improved, though she remains
   mildly confused.  LP and CT were unimpressive for an acute process.
   She has not yet had an EEG or MRI.  Does not need meningitis
   medications, no clear signs of infection?
   Exacerbated at this time by agitation [**1-31**] intubation and multiple doses
   of haldol/ativan given in emergency room.  Although presentation
   atypical, cannot rule out at this time epileptiform activity although
   her initial presentation is not suggestive of this (no witnessed
   seizure or seizure-like movements).  She has beeWe can also not rule
   out meningitis/encephalitis although again the patient does not have
   any laboratory evidence suggestive of these findings.  Exam is normal
   with exception of + Kernig's sign.  Head CT preliminary read negative.
   - Control BP as below
   - EEG/MRI this morning
   - Antibiotics started as could be infectious cause (sepsis vs
   meningitis): ampicillin, cefipime, vancomycin, and acyclovir
   - Consult neurology in AM regarding trileptal monitoring.
   .
   #Fever:possibly due to infection, was pan cultured.  Will do an LP this
   morning and started antibiotics this morning.
   - LP this morning
   - f/u pan cultures and CXR
   - antibiotics: ceftriaxone, ampicillin, acyclovir, and vanco all
   started [**2101-11-26**] in am.
   .
   # HTN: back on home amlodipine, labetalol, valsartan and doxazosin.
   Patient unable to give a clear picture of what led to this worsening of
   her HTN.  Today we can increase her valsartan to 320.
   Patient was on nitroprusside drip started in ED and now on labetalol
   drip.  Currently hypertension improved with SBP in 130-150range x
   several hours; combination of BP medication
   .
   .
   # ESRD: Last HD on Wednesday.  Currently stable.  Continue nephrocaps,
   renagel
   - f/ renal recs
    .
   # Asthma: Continue prn albuterol
   .
   # Gastroesophageal reflux disease: lansoprazole
   .
   # Hypercholesterolemia: continue home simvastatin
   .
   # FEN: No IVF, follow electrolytes, place OG and start meds and feeds
   # Prophylaxis: pneumoboots; look into why cannot be on heparin; PPI
   # Access: peripherals
   # Code:  Full
   # Communication: Patient, husband
   # Disposition: call out to floor

2101-11-27 14:01:00 Physician Attending Progress Note
Chief Complaint: Hypertension, altered mental status, acute respiratory
   failure, chronic renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday. Doing well off the vent. Now off all supplemental
   oxygen. Fluid balance negative with dialysis.
   Blood pressure under better control on home meds.
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2101-11-26**] 10:15 AM
 INVASIVE VENTILATION - STOP [**2101-11-26**] 01:59 PM
 BLOOD CULTURED - At [**2101-11-26**] 02:30 PM
   from HD line X 2
 FEVER - 101.1
F - [**2101-11-26**] 08:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Iron Dextran Complex
   Unknown;
   Heparin (Porcine)
   Unknown;
   Ibuprofen
   Unknown; upset
   Gadolinium-Containing Agents
   Nausea/Vomiting
   Morphine
   Drowsiness/Fati
   Vancomycin
   chest pain;
   Last dose of Antibiotics:
   Vancomycin - [**2101-11-26**] 08:15 AM
   Ampicillin - [**2101-11-26**] 12:35 PM
   Cefipime - [**2101-11-27**] 11:00 AM
   Acyclovir - [**2101-11-27**] 12:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-27**] 02:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.6
   HR: 67 (59 - 75) bpm
   BP: 156/69(90) {108/47(62) - 162/80(95)} mmHg
   RR: 19 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    879 mL
                                                                    429 mL
   PO:
             160 mL
   TF:
   IVF:
                                                                    664 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,121 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : ), (Breath Sounds: No(t) Clear : ,
   Crackles : Scattered posteriorally, No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Mild confusion, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   243 K/uL
   74 mg/dL
   4.2 mg/dL
   26 mEq/L
   4.8 mEq/L
   16 mg/dL
   100 mEq/L
   137 mEq/L
   32.4 %
   4.3 K/uL
        [image002.jpg]
                            [**2101-11-25**]  03:53 AM
                            [**2101-11-25**]  02:33 PM
                            [**2101-11-26**]  04:15 AM
                            [**2101-11-27**]  04:27 AM
   WBC
   5.5
   7.2
   4.3
   Hct
   36.3
   36.4
   32.4
   Plt
   [**Telephone/Fax (3) 11814**]
   Cr
   5.7
   7.1
   4.2
   TCO2
   30
   28
   Glucose
   70
   48
   74
   Other labs: ALT / AST:10/34, Alk Phos / T Bili:134/0.5,
   Differential-Neuts:60.3 %, Lymph:25.5 %, Mono:7.9 %, Eos:5.5 %, LDH:424
   IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ACUTE RESPIRATORY FAILURE
   ==========================
   Doing well off ventilator. Blood pressure under good control on home
   meds.
   LP results not indicative of meningitis and mental status has improved.
   WBC normal. Patient afebrile. Sputum growing moxarella. Will treat with
   levofloxacin.
   Treatment initiated for C diff.
   Electrolytes and acid base status acceptable with recent dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-11-25**] 04:44 AM
   Dialysis Catheter - [**2101-11-25**] 10:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes